US08735414B2
To a solution of tert-butyl 6-bromo-5-fluoro-1H-indole-1-carboxylate (1.57 g, 5.0 mmol) in dioxane (10 mL) was added a solution of Et2Zn in heptane (3.5 mL, 1.0M, 3.5 mmol) at room temperature. The mixture was kept stirring for 30 min at 90° C. and then cooled down to 0° C., into which saturated sodium bicarbonate was added dropwise. The mixture was then treated with water and extracted with CH2Cl2. The organic layer was dried over Na2SO4 and evaporated. The resulting oil was passed through a silica plug and eluted with 10% ethyl acetate in hexane. The eluent was evaporated to give tert-butyl 6-ethyl-5-fluoro-1H-indole-1-carboxylate as an oil which was solidified upon standing (1.25 g, 95%).

reactant | tert-butyl 6-bromo-5-fluoro-1H-indole-1-carboxylate | 5.0 mmol, 1.57 g | BrC1=C(C=C2C=CN(C2=C1)C(=O)OC(C)(C)C)F | C13H13BrFNO2
reactant | Et2Zn | [Zn](CC)CC
reactant | heptane | 3.5 mmol, 1.0M, 3.5 mL | CCCCCCC | C7H16
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | tert-butyl 6-ethyl-5-fluoro-1H-indole-1-carboxylate | C(C)C1=C(C=C2C=CN(C2=C1)C(=O)OC(C)(C)C)F | C15H18FNO2
